US05840726
(R)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-2-oxo-piperazine hydrochloride salt
Dissolve (R)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-2-oxo-piperazine (0.687 g, 1.50 mmol) in dichloromethane (20 mL). Cool to 0° C. Pass hydrochloride gas through the solution for 15 minutes. Evaporate in vacuo to obtain a residue. Dissolve the residue in hot ethanol (5 mL) and add diethyl ether. Cool and filter to give the title compound. Elem. Anal. calculated for C21H23N3O. HCl: C, 68.19; H, 6.54; N, 11.36. Found: C, 67.79; H, 6.73; N, 11.20. Specific rotation [α]2D0 =+113° (c=1.00, DMSO).

reactant | (R)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-2-oxo-piperazine | 1.50 mmol, 0.687 g | N1C=C(C2=CC=CC=C12)C[C@@H]1C(N(CCN1)CCC1=CC=CC=C1)=O | C21H23N3O
reactant | hydrochloride | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (R)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-2-oxo-piperazine hydrochloride salt | Cl.N1C=C(C2=CC=CC=C12)C[C@@H]1C(N(CCN1)CCC1=CC=CC=C1)=O | InChI=1S/C21H23N3O.ClH/c25-21-20(14-17-15-23-19-9-5-4-8-18(17)19)22-11-13-24(21)12-10-16-6-2-1-3-7-16;/h1-9,15,20,22-23H,10-14H2;1H/t20-;/m1./s1
